Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
minoxidil
 
Attending: ___.
 
Chief Complaint:
Generalized weakness, fevers and epistaxis
 
Major Surgical or Invasive Procedure:
___: Midline placement by Interventional Radiology

 
History of Present Illness:
___ year old man, ___ speaking only, with ESRD
on ___, type II diabetes, asthma, peripheral vascular disease,
stroke, coronary artery disease, HFrEF EF 38%, atrial
fibrillation on warfarin who presents with weakness, fevers,
epistaxis. 

Patient reports new progressive weakness starting on ___. He
states he has not been able to walk since ___ due to weakness
and pain. He states that the pain radiates from his back down 
his
legs bilaterally. He endorses fevers, his daughter measured his
temperature yesterday, 100.9. He denies making urine. His
daughter reports that he can still make urine and reports that 
he
last made urine on ___. 

On review of systems he reports ___ days of "light" chest pain,
and shortness of breath. He states his chest pain is worse with
deep breathing. 

 
Past Medical History:
Benign Hypertension  
Type 2 Diabetes  
ESRD on HD MWF  
CVA ___ and ___ -> R arm,leg weakness intermittent slurred 
speech 
Asthma  
Hypercholesterolemia.  
PVD  
Seizures - complex partial  
Hx of DVT/PE in ___  
Schizophrenia  
s/p L CEA  
Ischemic colitis which occurred due to hypotension during 
dialysis  
Diverticulosis  
Fistulogram s/p angioplasty (___)  
Right axillary DVT ___  
 
Social History:
___
Family History:
Mother died at age ___ and father died at a young age ___ unknown 
cause, sister died during childbirth in ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS:  ___ 0021 Temp: 98 PO BP: 107/53 R HR: 90 RR: 22 O2
sat: 94% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
OP clear 
NECK: No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. ___ SEM 

LUNGS: Crackles and coarse breath sounds heard in lower lung
fields bilaterally
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. LUE fistula with
palpable thrill and audible bruit
SKIN: Warm. Cap refill <2s. No rashes.  
NEUROLOGIC: AOx3. CN2-12 grossly intact. Moving all 4 
extremities spontaneously. 

DISCHARGE PHYSICAL EXAM:
=========================
98.2 PO BP: 137/93 R Lying HR: 89 RR: 18 O2 sat: 99% RA
GENERAL: sitting in bed, appears comfortable
HEENT: Sclerae anicteric 
CARDIAC: irregular, normal S1 and S2. No R/M/G.
LUNG: CTAB, no R/R/W
ABD: soft, nontender to palpation, without rebound/guarding.
EXT: No ___ swelling.
NEURO: Alert and answering questions appropriately. Oriented to 
self, hospital. Str ___ in bilateral hip flexion, ___ in 
bilateral dorsi/plantarflexion
SKIN: No lesions noted on legs, arms or head/neck.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:42PM BLOOD ___ PTT-63.4* ___
___ 02:42PM BLOOD Glucose-125* UreaN-126* Creat-13.5*# 
Na-138 K-6.2* Cl-95* HCO3-12* AnGap-31*
___ 02:42PM BLOOD WBC-8.3 RBC-3.61* Hgb-11.3* Hct-34.5* 
MCV-96 MCH-31.3 MCHC-32.8 RDW-13.4 RDWSD-47.2* Plt ___
___ 02:42PM BLOOD ALT-13 AST-16 AlkPhos-308* TotBili-0.3
___ 02:42PM BLOOD Albumin-3.7
___ 05:49AM BLOOD Calcium-9.6 Phos-6.0* Mg-1.8
___ 02:42PM BLOOD CRP-GREATER TH
___ 03:39PM BLOOD pO2-54* pCO2-42 pH-7.28* calTCO2-21 Base 
XS--6

RELEVANT MICRO:
===============
___ BLOOD CULTURES X2: NO GROWTH
___ AFB SMEARS NEGATIVE, CULTURES PENDING
___ MTB DIRECT AMPLIFICATION TEST: 
      M. TUBERCULOSIS DNA NOT DETECTED BY NAAT: A negative NAAT 
cannot rule
      out TB  or other mycobacterial infection. 
      . 
      NAAT results will be followed by confirmatory testing with
      conventional culture and DST methods. This TB NAAT method 
has not
      been approved by FDA for clinical diagnostic purposes. 
However, this
      laboratory has established assay performance by in-house 
validation
      in accordance with ___ standards. 
      . 
      Test done at ___ Mycobacteriology 
Laboratory..

RELEVANT IMAGING:
===============
___ MR THORACIC SPINE W/O CONTRAST
1. No evidence of spinal canal or neural foraminal narrowing.  
No cord signal abnormalities. 
2. No evidence of epidural fluid collection or bone marrow 
signal 
abnormalities. 
3. Mild multilevel dorsal epidural lipomatosis and degenerative 
changes. 
4. Trace right pleural effusion. 

___ MR LUMBAR SPINE W/O CONTRAST 
1. No evidence of cord compression, infection, or epidural 
collection. 
2. Mild degenerative changes at L4-5 and L5-S1. 

___ CT ABD & PELVIS W/O CONTRAST
1. Bilateral lung opacities suggest pneumonia. 
2. Trace bilateral pleural effusions. 
3. No evidence of acute intra-abdominal process. 
4. No nephrolithiasis or hydronephrosis.  Normal appendix. 
5. Additional chronic findings, detailed above. 

___ CT HEAD W/O CONTRAST
1. Technically limited exam. 
2. 2 mm hypodense left dural collection, likely chronic 
hematoma, without mass effect. 
3. Apparent prominence of the right frontal extra-axial spaces 
most likely 
secondary to the leftward tilt of the patient's head, less 
likely secondary to small chronic subdural collection.  This may 
be reassessed on follow-up. 
4. No evidence of hemorrhage or acute major vascular territorial 
infarction.  
MRI would be more sensitive for an acute infarction, if 
clinically warranted. 

___ MRI & MRA BRAIN 
1. Focal short-segment near occlusion of the right petrous 
segment internal carotid artery with flow seen distally. 
2. Occlusion of the left M1 segment just distal to the carotid 
terminus with essentially no signal of the left MCA branches. 
3. Moderate to severe multifocal atherosclerotic disease 
throughout the circle of ___, most pronounced in the 
cavernous internal carotid arteries and right posterior cerebral 
artery. 
4. No evidence of acute infarction or intracranial hemorrhage. 
5. Small bilateral left greater than right cerebral convexity 
subdural fluid collections/hygromas.  No significant mass 
effect. 
6. Chronic infarcts in the bilateral basal ganglia and pons. 
7. Mild parenchymal volume loss and probable moderate to 
extensive chronic 
small vessel ischemic disease. 

___ RIGHT UPPER EXTREMITY VENOUS ULTRASOUND
Extensive deep venous thrombosis involving the right subclavian, 
axillary, and one of the paired brachial veins.  Notably, the 
right subclavian, axillary, and brachial veins are were occluded 
on ___ right upper extremity ultrasound. 

___ CTA HEAD AND CTA NECK 
1. No acute intracranial hemorrhage or territorial infarct. 
2. Stable left convexity hypodense 2 mm subdural collection. 
3. Corresponding to findings on MRA, there is near complete 
occlusion of the right internal carotid artery in the petrous 
segment with flow distally and patent right MCA arborization. 
4. Severe stenosis and likely complete occlusion of the left M1 
segment at the carotid terminus although there does appear to be 
flow distally in the MCA arborization possibly due to 
collaterals. 
5. Approximately 40 to 50% narrowing of the bilateral 
supraclinoid internal 
carotid arteries due to calcified atherosclerotic plaque. 
6. The posterior circulation appears patent without significant 
stenosis. 
7. Approximately 50% narrowing of the left internal carotid 
artery in the 
cervical segment by NASCET criteria. 
8. Right lung opacities suggest infectious or inflammatory 
process. 
9. 9 mm cavitary nodule in the right upper lobe could suggest 
tuberculosis, 
septic embolus, or malignancy. Dedicated chest CT recommended. 
10. Markedly enlarged mediastinal lymph nodes. 

___ CT CHEST WITH CONTRAST
1.  Multifocal opacities involving right upper/middle lobes and 
left lower 
lobes, right greater than left with sparing of the left upper 
lobe suggest a multifocal infectious process predominantly 
centering along airways and 
peribronchovascular parenchyma.  Additionally there is a small 
but new 
peripheral nodule with cavitation in the right upper lobe.  
Atypical organisms should be considered for this in addition to 
bacterial pneumonia.  New lymphadenopathy in the mediastinum in 
each hilum. 
2.  Persistent occlusive venous disease in the right upper 
extremity. 

___ TTE
The left atrial volume index is SEVERELY increased. There is no 
evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is ___ mmHg. There is normal 
left ventricular wall thickness with
a normal cavity size. There is mild-moderate left ventricular 
regional systolic dysfunction with XXX (see schematic) and 
moderate global hypokinesis of the remaining segments. No 
thrombus or mass is seen in the
left ventricle. Quantitative 3D volumetric left ventricular 
ejection fraction is 35 % (normal 54-73%). Due to severity of 
mitral regurgitation, intrinsic left ventricular systolic 
function is likely lower. Left ventricular cardiac index is 
normal (>2.5 L/min/m2). There is no resting left ventricular 
outflow tract gradient. Normal right ventricular cavity size 
with moderate global free wall hypokinesis. Tricuspid annular 
plane systolic excursion (TAPSE) is depressed. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. The aortic valve leaflets (3) 
are mildly thickened. There is no aortic valve stenosis. There 
is no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
moderate mitral annular calcification. There is moderate to 
severe [3+] mitral regurgitation. Due to acoustic shadowing, the 
severity of mitral regurgitation could be UNDERestimated. The 
pulmonic valve leaflets are not well seen. The tricuspid valve 
leaflets appear structurally normal. There is mild to moderate 
[___] tricuspid regurgitation. There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
regional and global left ventricular systolic dysfunction most 
consistent with coronary artery disease or other diffuse 
process. Moderate to severe mitral regurtitation. Moderate 
pulmonary artery systolic hypertension. Right
ventricular free wall hypokinesis. Compared with the prior TTE 
(images not available for review) of ___, the estimated 
pulmonary artery systolic pressure is now increased. 

CLINICAL IMPLICATIONS: The patient's LVEF is less than 40%; a 
threshold for which they may benefit from a beta blocker and an 
ACE inhibitor (or ___ and a mineralocorticoid receptor 
antagonist.

 
Brief Hospital Course:
====================
ASSESSMENT AND PLAN: 
==================== 
___, ___, with h/o ESRD on ___ HD, type II 
diabetes, asthma, peripheral vascular disease, stroke, coronary 
artery disease, HFrEF EF 35%, atrial fibrillation on warfarin 
who presents with generalized weakness, fevers and epistaxis 
found to have supratherapeutic INR, hyperkalemia and 
community-acquired pneumonia. Given cavitation seen on CT chest 
and history of untreated latent TB, he underwent TB rule out 
which revealed 3x negative smear and negative TB nuclear acid 
amplification test. Course was c/b acute-on-chronic RUE DVT, 
toxic-metabolic encephalopathy, hypoxic respiratory failure 
secondary to flash pulmonary edema, which all resolved by 
discharge. Anticoagulation was changed from warfarin to 
apixaban. Rehab was recommended given significant deconditioning 
and pt/family ultimately agreed.

==================== 
ACUTE/ACTIVE ISSUES: 
==================== 
#Cavitary lung lesion
CT chest shows cavitary lesion with hilar lymphadenopathy. His 
TB risk factors include being from an endemic country and 
requiring chronic HD, latent untreated TB. However, AFB smear x3 
negative, and TB NAAT was negative. Cultures were pending. Per 
discussion with Infection Control, patient is at insignificant 
risk of having TB infectivity. TB precautions were stopped 
in-house. Infection Control will follow up re: TB cultures. 
Respiratory symptoms were felt to be consistent with patient's 
CAP (per below).

# Community acquired pneumonia
Initially on CTX/azithro, at one point broadened to 
vanc/cefepime in the setting of hypotension, then narrowed back 
to CTX/azithro for total 5d course given overall clinical 
picture. Speech and Swallow evaluated patient and felt him to be 
low risk for aspiration.

# ESRD on HD (MWF)
# Hyperkalemia
# Hyponatremia
# Hypervolemia
# Hypoxic respiratory failure
# Hypotension
Secondary to missing 2 HD sessions. K 6.8 on admission. Received 
urgent HD. Later in admission, developed flash pulmonary edema, 
requiring again urgent HD. Later, triggered for hypotension to 
___ systolic after HD secondary to UF, improved with IVF. Had 
some intermittent hyponatremia which was managed with HD. By 
discharge, had received consistent ___ HD which he was 
tolerating well.

# Supratherapeutic INR
# Acute on chronic extensive RUE DVT
Presented with INR > 13.8. Reversed. Once INR dropped, patient 
developed RUE DVT, with ultrasound showing extensive DVT 
involving the right subclavian, axillary, and one of the paired 
brachial veins. Per initial Hematology recommendation, bridged 
with heparin then transitioned back to warfarin, goal INR ___. 
It was difficult to achieve a stable INR during his hospital 
course and after discussion with renal team, transitioned him to 
apixaban 5mg BID. He was discharged with 1 month supply.

# Toxic metabolic encephalopathy
# Transient aphasia
# Multifocal intracranial stenosis
Patient had apparent transient expressive aphasia on ___ in the 
setting of receiving dialysis. However this was difficult to 
assess given concominant delirium, metabolic derangements and 
requirement for ___ language interpreter. Neurology was 
consulted and Code Stroke was called with reassuring workup. CT 
head, MRI/MRA brain, and CTA head/neck which did not show acute 
stroke, but did demonstrate severe intracranial atherosclerotic 
disease. Home atorvastatin was increased to 80mg. Continued on 
home aspirin 81mg.

# Diabetic retinopathy
Neuro team noted monocular diplopia. He was followed up by 
ophthalmology on ___ who noted moderate bilateral cataracts and 
moderate-severe diabetic retinopathy. Recommended follow up in 
ophthalmology clinic.

# Rehab needs:
Severely reconditioned.  Pt originally refused transition to 
rehab preferring to return home with family.  Ultimately, pt 
agreed to plan for rehab as he recognized that he could not 
manage at home until he gets stronger.

# Heart with failure reduced ejection fraction (EF 38%)
# Ischemic cardiomyopathy
# Mild/moderate [___] TR
# Severe (3+) MR
# Atrial fibrillation 
TTE was repeated this admission due with EF 35%, 3+ MR, ___ TR. 
Volume managed with HD. Continued on home metoprolol. Digoxin 
held while on azithro, resumed afterward. He is not on optimal 
medical therapy for HFrEF. Per last cardiology note, he was 
initiated on low-dose captopril previously but had hypotension 
on HD days, then it was held and on another visit recommended 
restarting it and holding on HD days. Did not restart while 
inpatient due to hypotension after HD, would resume if able as 
an outpatient. Anticoagulation per above.

# Dyspnea/Chest tightness
Patient complained intermittently of dyspnea which was thought 
multifactorial from fluid overload, deconditioning, and asthma. 
EKGs were not concerning for active ischemia. He was treated for 
asthma as below.

# Constipation
Started on bowel regimen which was uptitrated to miralax BID and 
2 tabs of senna BID, then started having loose stools. 
Discharged with daily miralax. Please monitor.

# Elevated Lactate
# Respiratory alkalosis
Had an episode of respiratory distress iso fluid overload with 
respiratory alkalosis and lactate of 8 which decreased without 
intervention, thought possibly related to poor renal clearance 
vs. type D from frequent
nebulizer treatments.

# Leukocytosis
Intermittently elevated to 10 range, thought iso infection and 
inflammation.

# Asthma
Continued albuterol prn and fluticasone BID. Put on standing 
DuoNebs, transitioned back to home regimen at discharge with PRN 
duonebs. ___ benefit from outpatient PFTs.

==================== 
CHRONIC/STABLE ISSUES: 
==================== 
# Back pain
Pt with fevers at home and CRP>300 however MRI T and L spine 
without compression, osteomyelitis, or epidural abscess. Most 
consistent with exacerbation of radicular pain

# Coronary artery disease
# Peripheral vascular disease
Continued home aspirin 81mg, atorvastatin increased to 80mg, 
anticoagulation per above.

# T2DM
ISS while inpatient.

# Epilepsy
Continued oxcarbazepine.

# Depression
Continued sertraline. 

# GERD
Continue omeprazole.

# Chronic anemia
H/H stable.

==================== 
TRANSITIONAL ISSUES
==================== 
[] Follow-up chest CT: Recommended in ___ months to reassess the 
small cavitating RUL nodule and mediastinal lymphadenopathy.
[] Infection control to f/u TB sputum cultures.
[] Ophthalmology: Due to his moderate to severe diabetic 
retinopathy, he should follow up with ophthalmology (preferably 
specialized in retina and diabetic retinopathy) as an outpatient 
for imaging and further management. Appointment has been made.
[] HD adherence: Please encourage HD adherence. He missed 
several recent HD appointments and was hyperkalemic on admission 
requiring urgent HD.
[] Anticoagulation: Switched to apixaban this admission. Prior 
authorization was not needed. Would monitor for tolerability.
[] Medical therapy for HFrEF: Consider resuming captopril if 
able on non-HD days. Recommend cardiology followup routinely. He 
was due for 6 month followup last ___.
[] Atorvastatin increased to 80 mg daily.
[] Please monitor electrolytes as an outpatient. Had 
downtrending phos level by discharge, though elevated on 
admission.
[] ___ benefit from outpatient PFTs.

# CODE: Full presumed
# CONTACT: 
Name of health care proxy: ___ 
Relationship: Daughter 
Phone number: ___
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Cinacalcet 60 mg PO DAILY 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Metoprolol Tartrate 6.25 mg PO BID 
8. Omeprazole 20 mg PO BID 
9. OXcarbazepine 300 mg PO BID 
10. Sertraline 25 mg PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 
12. ___  MD to order daily dose PO DAILY16 
13. methyl salicylate-menthol ___ % topical QID:PRN pruritus 
14. Digoxin 0.125 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN dyspnea  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
5.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
6.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
7.  Aspirin 81 mg PO DAILY  
8.  Cinacalcet 60 mg PO DAILY  
9.  Digoxin 0.125 mg PO 3X/WEEK (___)  
10.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
11.  methyl salicylate-menthol ___ % topical QID:PRN pruritus  

12.  Metoprolol Tartrate 6.25 mg PO BID 
hold for sbp<90 or hr<55  
13.  Omeprazole 20 mg PO BID  
14.  OXcarbazepine 300 mg PO BID  
15.  Sertraline 25 mg PO DAILY  
16.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Community acquired pneumonia
Hyperkalemia in the setting of hemodialysis nonadherence
Hypoxic respiratory failure
Cavitary lung lesion
Extensive right upper extremity deep vein thrombosis

Secondary diagnoses:
Acute toxic metabolic encephalopathy
Diabetic retinopathy
End stage renal disease on hemodialysis
Coronary artery disease
Peripheral vascular disease
Atrial fibrillation
Type 2 diabetes mellitus
Epilepsy
Chronic anemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===========================================
You were having a nosebleed, fever, and weakness.  

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
===========================================
- You had dangerous blood abnormalities due to missing dialysis. 

- You received urgent dialysis. 
- You were found to have a pneumonia and treated with 
antibiotics. 
- There were concerns that you had active tuberculosis (TB). You 
underwent multiple tests that showed that you are not at risk 
for infecting others with TB at this time. 
- The level of your warfarin was found to be very high, which 
caused your nose bleed. You required special medications to 
bring your warfarin back to a good level.
- Your blood thinner was switched from warfarin to a medication 
called apixaban (Eliquis), which does not require regular 
monitoring.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors' appointments.  
- Please call your primary care doctor on ___ to schedule a 
follow up appointment.

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___